US04042596
Ethyl-2-hydroxyimino-3-oxo-5-phenylvalerate
To a solution of 22.0 g. of ethyl 3-oxo-5-phenylvalerate in 100 ml. of ethanol is added 40 ml. of 38% hydrochloric acid, and after 10 minutes 11.3 ml. of n-butyl nitrite is added thereto. The resulting mixture is allowed to stand at room temperature for 45 minutes, and then the ethanol portion is essentially removed under reduced pressure to obtain an oily residue. The residue is poured into about 500 ml. of water and extracted 3 times with 200 ml. of chloroform. The combined extracts are dried over anhydrous sodium sulfate, then evaporated to obtain the title compound as a residue.

reactant | ethyl 3-oxo-5-phenylvalerate | O=C(CC(=O)OCC)CCC1=CC=CC=C1 | C13H16O3
reactant | hydrochloric acid | Cl | ClH
reactant | n-butyl nitrite | N(=O)OCCCC | C4H9NO2
solvent | ethanol | C(C)O | C2H6O
product | Ethyl-2-hydroxyimino-3-oxo-5-phenylvalerate | C(C)OC(C(C(CCC1=CC=CC=C1)=O)=NO)=O | C13H15NO4
